US05312914
(R)-2-acetamido-3-ethoxycarbonyl-2-penten-4-olide
12.04 g of (R)-2-amino-3-ethoxycarbonyl-2-penten-4-olide are dissolved in 48 ml of acetic anhydride, 125 mg of toluenesulphonic acid monohydrate are added and the whole is stirred overnight at 40° C. The mixture is concentrated by evaporation, dissolved in ethyl acetate and washed with water. The ethyl acetate is distilled off and the residue is recrystallised from ethyl acetate/cyclohexane, [α]D20 =+62.3° (3% in CHCl3), m.p. 119°-122° C.

reactant | (R)-2-amino-3-ethoxycarbonyl-2-penten-4-olide | 12.04 g | NC=1C(=O)O[C@@H](C1C(=O)OCC)C | C8H11NO4
reactant | toluenesulphonic acid monohydrate | 125 mg | O.C=1(C(=CC=CC1)S(=O)(=O)O)C
solvent | acetic anhydride | 48 ml | C(C)(=O)OC(C)=O | C4H6O3
product | (R)-2-acetamido-3-ethoxycarbonyl-2-penten-4-olide | C(C)(=O)NC=1C(=O)O[C@@H](C1C(=O)OCC)C | C10H13NO5
